US05736539
4-Benzyl-1-tert-butoxycarbonyl-2(S)-(2-hydroxyethyl)piperazine
The title compound was prepared according to the procedure described in Example 2, Step B, except using 1-benzyl-3(S)-cyclohexoxycarbonylmethylpiperazine-2,5-dione (1.5 g, 4.36 mmol) and lithium aluminum hydride (0.76 g, 20.1 mmol), followed by di-tert-butyl dicarbonate (1.04 g, 4.77 mmol). The crude product was purified by column chromatography on silica gel, eluting with 30% ethyl acetate in hexane. The title compound was obtained as a clear oil, 1.27 g. NMR (CD3OD, 300 MHz) δ 7.3 (5H, m), 4.20 (1H, m), 3.86 (1H, dm, J=13 Hz), 3.55 (1H, d, J=13 Hz), 3.46 (2H, m), 3.39 (1H, d, J=13 Hz), 3.08 (1H, t, J=12 Hz), 2.80 (1H, d, J=12 Hz), 2.73 (1H, d, J=12 Hz), 2.04 (3H, m), 1.84 (1H, sextet, J=7 Hz), 1.45 (9H, s).

reactant | 1-benzyl-3(S)-cyclohexoxycarbonylmethylpiperazine-2,5-dione | 4.36 mmol, 1.5 g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CC(=O)OC1CCCCC1)=O | C19H24N2O4
reactant | lithium aluminum hydride | 20.1 mmol, 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl dicarbonate | 4.77 mmol, 1.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 4-Benzyl-1-tert-butoxycarbonyl-2(S)-(2-hydroxyethyl)piperazine | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCO | C18H28N2O3
